US08022222B2
2,6-Difluorophenol (10.0 mmol) is added to a mixture of sodium hydride (240 mg, 10 mmol) in DMF (6 mL). The reaction mixture is stirred for 30 minutes at room temperature. The reaction mixture is cooled to 0° C., and 2,4,6-trichloropyridine is added. The reaction mixture is stirred at 0° C. for 1 hour, then at room temperature for 4 hours. The reaction mixture is partitioned between ethyl acetate and water, the organic layer is washed with 2N NaOH, water, brine, dried, and concentrated. The residue is purified via chromatography eluting with 5:1 hexane:ethyl acetate to afford 2,6-dichloro-4-(2,6-difluorophenoxy)pyridine.

reactant | 2,6-Difluorophenol | 10.0 mmol | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | sodium hydride | 10 mmol, 240 mg | [H-].[Na+]
reactant | 2,4,6-trichloropyridine | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2,6-dichloro-4-(2,6-difluorophenoxy)pyridine | ClC1=NC(=CC(=C1)OC1=C(C=CC=C1F)F)Cl | C11H5Cl2F2NO
